US04396621
A solution of 7.5 g of 2,3-dihydro-2-oxo-benzo[b]thiophen in 50 ml of hexamethylphosphoric acid triamide is added dropwise, with cooling, to a suspension of 2.4 g of a 50% sodium hydride/mineral oil dispersion in 100 ml of hexamethylphosphoric acid triamide, the temperature being kept below 15° during the addition. After stirring for half an hour at room temperature, 52 g of phenyl N-(2-thienyl)-carbamate, dissolved in 50 ml of hexamethylphosphoric acid triamide, are added dropwise, with external cooling. The reaction mixture is stirred for a further 16 hours at room temperature and is poured into a mixture of 200 ml of 2 N hydrochloric acid and 1000 ml of ice-water. An oil separates out and this crystallises after about 2 hours. The crystalline product, which contains solvent, is dissolved in 2 N sodium hydroxide solution and the solution is washed four times with ethyl acetate. The organic phase is washed with water, the aqueous phases are combined and acidified to a pH of 1 and the crude product is filtered off with suction and recrystallised from tetrahydrofuran/ether. N-(2-Thienyl)-2-oxo-2,3-dihydro-3-benzo[b]thiophen-carboxamide with a melting point of 142°-144° (decomposition) is obtained.

reactant | 2,3-dihydro-2-oxo-benzo[b]thiophen | 7.5 g | O=C1CC2=C(S1)C=CC=C2 | C8H6OS
reactant | sodium hydride | [H-].[Na+]
reactant | phenyl N-(2-thienyl)-carbamate | 52 g | S1C(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9NO2S
reactant | hydrochloric acid | 2 N, 200 ml | Cl | ClH
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric acid triamide | 100 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric acid triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-(2-Thienyl)-2-oxo-2,3-dihydro-3-benzo[b]thiophen-carboxamide | S1C(=CC=C1)NC(=O)C1C2=C(SC1=O)C=CC=C2 | C13H9NO2S2
